US07674815B2
To a solution of 1 g (5.06 mmol) of 6-chloro-1H-benzo[d][1,3]oxazine-2,4-dione in DMF (20 ml) were carefully added 265 mg of sodium hydride (55% in mineral oil) at 0° C. This mixture was stirred for 30 min at RT and then 1.18 ml (7.59 mmol) of ethyl iodide were added. Stirring was continued for 16 h at RT, then water was added and the mixture was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated. The remaining residue was purified by crystallization from heptane to obtain 682 mg (60%) of 6-chloro-1-ethyl-1H-benzo[d][1,3]oxazine-2,4-dione as an off-white solid. 1HNMR (DMSO-d6, 300 MHz): δ 1.21 (t, J=7.0 Hz, 3H), 4.05 (q, J=7.0 Hz, 2H), 7.54 (d, J=9.1 Hz, 1H), 7.88 (dd, J=9.1 and 2.5 Hz, 1H), 7.96 (d, J=2.5 Hz, 1H).

reactant | 6-chloro-1H-benzo[d][1,3]oxazine-2,4-dione | 5.06 mmol, 1 g | ClC1=CC2=C(NC(OC2=O)=O)C=C1 | C8H4ClNO3
reactant | sodium hydride | 265 mg | [H-].[Na+]
reactant | ethyl iodide | 7.59 mmol, 1.18 ml | C(C)I | C2H5I
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-chloro-1-ethyl-1H-benzo[d][1,3]oxazine-2,4-dione | 682 mg, 60% | ClC1=CC2=C(N(C(OC2=O)=O)CC)C=C1 | C10H8ClNO3
